### PR TITLE
feat(bivariate): partial derivatives and root multiplicity for bivariate polynomials

### PR DESCRIPTION
**Pull request by DimitriosMitsios**
This PR adds partial derivatives, root-multiplicity and their associated correctness and bridge lemmas for `CBivariate`

  ## Partial derivatives
  - `partialDerivX`, `partialDerivY`, iterated/mixed partials
  - Leibniz rules, commutativity, and `toPoly` bridges to `Polynomial.derivative`
  - univariate `CPolynomial.derivative` + `taylor` and their `toPoly` bridges

  ## Multiplicity
  - `hasMultiplicity` / `checkMultiplicity` defined via the Taylor shift
    `shiftC a b Q = Q(X+a, Y+b)` (the Hasse-derivative criterion), correct in every
    characteristic — unlike an ordinary-derivative definition, which overcounts in
    positive characteristic
  - `shiftC_toPoly` identifies the computable shift with `Polynomial.Bivariate.shift`
  - `hasMultiplicity_iff_rootMultiplicity` certifies it against the reference
    `Polynomial.Bivariate.rootMultiplicity` (`rootMultiplicity₀_ge_iff`)

  ## Tests
  - `tests/CompPolyTests/Bivariate/Deriv.lean`: regression `#guard`s over 𝔽₂/𝔽₃
    covering the small-characteristic behaviour

Notice that the work on PR #237 also implements Hasse derivatives and `hasMultiplicity` notions.

Co-Authored-By: Claude Opus 4.8 <noreply@anthropic.com>

### CODE REVIEW

File: CompPoly/Bivariate/Deriv.lean [hunk 1]
```diff
@@ -0,0 +1,402 @@
...
+    (a : R) : taylor a (0 : CPolynomial R) = 0 := by
+  unfold taylor
+  rw [(support_empty_iff 0).mpr rfl, Finset.sum_empty]
+
+/-- The constant coefficient of the Taylor shift is evaluation at the shift point. -/
+theorem taylor_coeff_zero [Semiring R] [BEq R] [LawfulBEq R] [Nontrivial R] [DecidableEq R]
+    (a : R) (p : CPolynomial R) : coeff (taylor a p) 0 = eval a p := by
+  rw [coeff_toPoly, taylor_toPoly, Polynomial.taylor_coeff_zero, eval_toPoly]
+
+end CPolynomial
```
Comment (dhsorens) [inline CompPoly/Bivariate/Deriv.lean]: could we just put this in the Univariate Deriv.lean?

File: CompPoly/Univariate/ToPoly/Equiv.lean [hunk 2]
```diff
@@ -178,6 +178,14 @@ noncomputable def ringEquiv [LawfulBEq R] [Nontrivial R] :
...
 end RingEquiv
 
+/-- The derivative satisfies the Leibniz product rule. -/
+theorem derivative_mul [LawfulBEq R] [Nontrivial R] (p q : CPolynomial R) :
+    derivative (p * q) = derivative p * q + p * derivative q := by
+  apply ringEquiv.injective
+  change (derivative (p * q)).toPoly = (derivative p * q + p * derivative q).toPoly
+  rw [derivative_toPoly, toPoly_mul, toPoly_add, toPoly_mul, toPoly_mul,
+    derivative_toPoly, derivative_toPoly, Polynomial.derivative_mul]
+
```
Comment (dhsorens) [inline CompPoly/Univariate/ToPoly/Equiv.lean]: can this be in the univariate Deriv.lean file too?

**Review by dhsorens — COMMENTED** [review]
hi @DimitriosMitsios - thanks for this PR! I'm happy with it, just see these two comments and then we can merge

File: CompPoly/Bivariate/Deriv.lean (hunk 1 above)
Comment (DimitriosMitsios) [reply CompPoly/Bivariate/Deriv.lean]: Done

File: CompPoly/Univariate/ToPoly/Equiv.lean (hunk 2 above)
Comment (DimitriosMitsios) [reply CompPoly/Univariate/ToPoly/Equiv.lean]: Done

File: CompPoly/Univariate/ToPoly/Core.lean [hunk 3]
```diff
@@ -275,21 +274,6 @@ lemma Raw.eval_trim_eq_eval [LawfulBEq R] (x : R) (p : CPolynomial.Raw R) :
...
-theorem derivative_toPoly (p : CPolynomial R) :
-    (derivative p).toPoly = Polynomial.derivative (R := R) p.toPoly := by
-  apply Polynomial.ext
-  intro n
-  simp only [Polynomial.coeff_derivative, CPolynomial.toPoly,
-    Raw.coeff_toPoly, CPolynomial.coeff_derivative]
-  push_cast; ring_nf
-
-end DerivBridge
-
```
Comment (DimitriosMitsios) [inline CompPoly/Univariate/ToPoly/Core.lean]: I had to move this to Univariate/Deriv.lean in order to break a circular dependency

File: CompPoly/Univariate/ToPoly/Core.lean [hunk 4]
```diff
@@ -3,6 +3,7 @@ Copyright (c) 2025 CompPoly. All rights reserved.
 Released under Apache 2.0 license as described in the file LICENSE.
 Authors: Quang Dao, Gregor Mitscha-Baude, Derek Sorensen
 -/
+import Mathlib.Algebra.Polynomial.Derivative
```
Comment (dhsorens) [inline CompPoly/Univariate/ToPoly/Core.lean]: probably don't need this anymore then?

Comment (DimitriosMitsios) [reply CompPoly/Univariate/ToPoly/Core.lean]: Fixed!
